2123-04-09 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Ms. [**Known lastname 5263**] is a very pleasant 74 year old female with past medical
   history of colon cancer complicated by bilateral ureteral obstruction
   requiring percutaneous nephroureteral stent and colostomy, who presents
   with weakness, likely secondary to ongoing bleeding from  her left
   nephroureteral tube.
   24 Hour Events:
 OR RECEIVED - At [**2123-4-8**] 08:00 AM
   return from angio
 ARTERIAL LINE - START [**2123-4-8**] 08:59 AM
 NUCLEAR MEDICINE - At [**2123-4-8**] 11:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2123-4-9**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 76 (76 - 102) bpm
   BP: 95/51(69) {89/41(60) - 148/75(90)} mmHg
   RR: 10 (10 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 43.2 kg
   Height: 63 Inch
           Total In:
                                                                  1,708 mL
                                                                    735 mL
   PO:
           TF:
   IVF:
                                                                    730 mL
                                                                    360 mL
   Blood products:
                                                                    978 mL
                                                                    375 mL
   Total out:
                                                                  2,805 mL
                                                                    775 mL
   Urine:
                                                                  2,755 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,097 mL
                                                                    -40 mL
   Physical Examination
   General: Well appearing, pleasant, in NAD
   HEENT: Supple. No conjunctival pallor or scleral icterus. MMM, clear
   oropharynx.
   Neck: Supple, flat JVP
   Lungs: Clear to asculatation anteriorly without r/r/w
   Cardiac: Regular, no rubs, murmurs, gallops
   Abd: Soft, ostomy in place with healthy appearing stoma, no apparent
   blood in ostomy bag.
   GU: Stent site without apparent bleeding, no ecchymoses.
   Extr: warm, pneumoboots in place, capillary refill <3 seconds. Trace
   edema bilaterally, no clubbing/cyanosis.
   Neuro: Alert, oriented, appropriate
   Labs / Radiology
   156 K/uL
   8.8 g/dL
   98 mg/dL
   1.9 mg/dL
   25 mEq/L
   3.4 mEq/L
   22 mg/dL
   111 mEq/L
   141 mEq/L
   25.0 %
   6.1 K/uL
        [image002.jpg]
                             [**2123-4-8**]  05:32 AM
                             [**2123-4-8**]  09:03 AM
                             [**2123-4-8**]  09:24 AM
                             [**2123-4-8**]  02:45 PM
                             [**2123-4-8**]  08:03 PM
                             [**2123-4-9**]  02:50 AM
   WBC
   9.6
   8.6
   6.1
   Hct
   16.7
   20.3
   28.4
   28.1
   25.0
   Plt
   [**Telephone/Fax (3) 5273**]
   Cr
   2.1
   2.1
   1.9
   TCO2
   23
   Glucose
   126
   129
   98
   Other labs: PT / PTT / INR:13.5/25.1/1.2, Alk Phos / T Bili:/1.0,
   Albumin:2.6 g/dL, LDH:101 IU/L, Ca++:6.9 mg/dL, Mg++:1.4 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 .H/O CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   Ms. [**Known lastname 5263**] is a very pleasant 74 year old female with past medical
   history of colon cancer complicated by bilateral ureteral obstruction
   requiring percutaneous nephroureteral stent and colostomy, who presents
   with weakness, likely secondary to ongoing bleeding from  her left
   nephroureteral tube.
   .
   #) Anemia: Patient's HCT of 12.8 is a dramatic drop from her discharge
   value of 28.1 on [**2123-4-1**]. She describes several days of ongoing
   bleeding, with clots the size of her fist. She denies any other sources
   of bleeding. In setting of this history, ongoing bleeding from her left
   stent site is most likely. CT scan was without evidence of a
   retroperitoneal or other pathology, although will need to follow up
   final read. Both angiography and tagged RBC scan failed to reveal any
   source of bleeding. She has no known bleeding or coagulation disorders.
   IR has upsized her stent in hopes that this will help with bleeding.
   Given her anatomy, some degree of rectal bleeding may be present, but
   this has not been significant.  Radiation cystitis is also a
   possibility; given lack of significant rectal bleeding, radiation
   proctitis appears less likely.
   - Trend HCT q6H, transfuse for HCT <30 per urology, or acute drop;
   consider transfusion of platelets and FFP/cryo should she need
   additional transfusions given those factors are likely becoming
   depleted
   - Follow calcium and replete aggressively given number of PRBCs (no
   albumin available, but corrected for last albumin of 3.3 is 7.3)
   - Follow up final reads of imaging studies
   - Appreciate urology co-management
   - Continuing continous bladder irrigation per urology
   - Consider general surgery and/or GI consult should she have
   significant rectal bleeding
   - Monitor I/O
s closely (from stents, bladder, and rectal output)
   - Patient with 3 PIV
s in place.
   #) Hypertension: Holding home anti-hypertensives in setting of on-going
   bleeding. Currently normotensive.
   #) Renal insufficiency: Recent baseline creatinine appears to be
   1.7-2.0. Suspect bump on admission to 2.7 was likely pre-renal in
   setting of ongoing losses and continuing home BP medications.
    - Continue to monitor trend, improved today to 2.1 from 2.7.
   - Patient receiving sodium bicarbonate after angiography, as well as
   mucomist
   ICU Care
   Nutrition: Per urology team
   Glycemic Control: N/A
   Lines:
   18 Gauge - [**2123-4-8**] 08:33 AM
   Arterial Line - [**2123-4-8**] 08:59 AM
   16 Gauge - [**2123-4-8**] 10:28 AM
   Prophylaxis:
   DVT: Pneumoboots given ongoing bleeding
   Stress ulcer: PPI not needed
   VAP:  N/A
   Comments:
   Communication:  Comments: Husband [**Name (NI) 1788**] ([**Telephone/Fax (1) 5264**], [**Name2 (NI) **] [**Doctor First Name 792**]
   ([**Telephone/Fax (1) 5265**]
   Code status: Full code
   Disposition: ICU for now, may be able to call out should HCT remain
   stable

2123-04-09 10:42:00 Physician Attending Progress Note
TITLE:  MICU Attending Progress Note
   Chief Complaint: Hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74F with h/o RP fibrosis resulting in b/l ureteral obstruction with b/l
   nephrostomy tubes and developed bleeding after routine tube change.  On
   [**4-7**], represented with LH and found to have a Hct of 12.  A CT did not
   show RP bleed.  Angiogram and tagged RBC scan were also negative.  Her
   left sided stent was upsized to tamponade bleeding.  She has received
   7U PRBCs since admission.
   24 Hour Events:
 OR RECEIVED - At [**2123-4-8**] 08:00 AM
   return from angio
 ARTERIAL LINE - START [**2123-4-8**] 08:59 AM
 NUCLEAR MEDICINE - At [**2123-4-8**] 11:00 AM
   Transfused 1U PRBC for Hct 28>25.  Follow up Hct was 28.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   NAC [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley, nephro tubes
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-4-9**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 86 (76 - 102) bpm
   BP: 120/79(97) {89/41(60) - 151/125(135)} mmHg
   RR: 14 (10 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 43.2 kg
   Height: 63 Inch
           Total In:
                                                                  1,708 mL
                                                                    845 mL
   PO:
           TF:
   IVF:
                                                                    730 mL
                                                                    470 mL
   Blood products:
                                                                    978 mL
                                                                    375 mL
   Total out:
                                                                  2,805 mL
                                                                  1,605 mL
   Urine:
                                                                  2,755 mL
                                                                  1,575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,097 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   Physical Examination
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, left perc nephro tube with clean dressing
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   156 K/uL
   98 mg/dL
   1.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   22 mg/dL
   111 mEq/L
   141 mEq/L
   29.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2123-4-8**]  05:32 AM
                             [**2123-4-8**]  09:03 AM
                             [**2123-4-8**]  09:24 AM
                             [**2123-4-8**]  02:45 PM
                             [**2123-4-8**]  08:03 PM
                             [**2123-4-9**]  02:50 AM
                             [**2123-4-9**]  08:04 AM
   WBC
   9.6
   8.6
   6.1
   Hct
   16.7
   20.3
   28.4
   28.1
   25.0
   29.4
   Plt
   [**Telephone/Fax (3) 5273**]
   Cr
   2.1
   2.1
   1.9
   TCO2
   23
   Glucose
   126
   129
   98
   Other labs: PT / PTT / INR:13.5/25.1/1.2, Alk Phos / T Bili:/1.0,
   Albumin:2.6 g/dL, LDH:101 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):
   --Continue to follow serial Hct's; transfuse if evidence of ongoing
   blood loss.
   --Replete calcium, follows coags, platelets
   --Possibly will go to OR per urology.
   >Renal failure:
   Creatinine has returned to baseline.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-4-8**] 08:33 AM
   Arterial Line - [**2123-4-8**] 08:59 AM
   16 Gauge - [**2123-4-8**] 10:28 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   I saw and examined the patient with the fellow and ICU residents,
   overnight events reviewed.  Agree with Dr. [**Last Name (STitle) **]
s note, exam,
   assessment and plan above.  Patient without pain, SOB.  No further
   transfusions required.  Hct has remained stable.  If stable on repeat
   this afternoon will discuss with urology about transfer to their
   service on the floor.  Time spent 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2123-4-9**] 16:49 ------

2123-04-10 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 5263**] is a very pleasant 74 year old female with
   past medical history of colon cancer complicated by bilateral ureteral
   obstruction requiring percutaneous nephroureteral stent and colostomy,
   who presents with weakness, likely secondary to ongoing bleeding from
   her left nephroureteral tube.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2123-4-9**] 05:28 PM
   - Hct stable now 29.4
   - Ct abd persistent hyperdense collection in L renal pelvis,
   cholelithiasis, no perinephric hematoma
   - A-line d/c'd
   - nephrostomy tube L < R tube increased rate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-4-10**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 83 (72 - 98) bpm
   BP: 112/97(101) {112/57(71) - 151/97(101)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 95 kg
   Height: 63 Inch
                  Total In:
                                                                  1,385 mL
                                                                    120 mL
   PO:
                                                                    540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    470 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,880 mL
                                                                  1,165 mL
   Urine:
                                                                  3,850 mL
                                                                  1,165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,495 mL
                                                                 -1,045 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General: Well appearing, pleasant, in NAD
   HEENT: Supple. No conjunctival pallor or scleral icterus. MMM, clear
   oropharynx.
   Neck: Supple, flat JVP
   Lungs: Clear to asculatation anteriorly without r/r/w
   Cardiac: Regular, no rubs, murmurs, gallops
   Abd: Soft, ostomy in place with healthy appearing stoma, no apparent
   blood in ostomy bag.
   GU: Stent site without apparent bleeding, no ecchymoses.
   Extr: warm, pneumoboots in place, capillary refill <3 seconds. Trace
   edema bilaterally, no clubbing/cyanosis.
   Neuro: Alert, oriented, appropriate
   Labs / Radiology
   195 K/uL
   9.9 g/dL
   95 mg/dL
   1.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   16 mg/dL
   107 mEq/L
   142 mEq/L
   29.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2123-4-8**]  05:32 AM
                             [**2123-4-8**]  09:03 AM
                             [**2123-4-8**]  09:24 AM
                             [**2123-4-8**]  02:45 PM
                             [**2123-4-8**]  08:03 PM
                             [**2123-4-9**]  02:50 AM
                             [**2123-4-9**]  08:04 AM
                             [**2123-4-9**]  02:07 PM
                             [**2123-4-9**]  08:11 PM
                             [**2123-4-10**]  03:52 AM
   WBC
   9.6
   8.6
   6.1
   6.0
   6.7
   Hct
   16.7
   20.3
   28.4
   28.1
   25.0
   29.4
   28.3
   32.5
   29.4
   Plt
   [**Telephone/Fax (3) 5286**]66
   195
   Cr
   2.1
   2.1
   1.9
   1.8
   TCO2
   23
   Glucose
   126
   129
   98
   95
   Other labs: PT / PTT / INR:13.5/25.1/1.2, Alk Phos / T Bili:/1.0,
   Albumin:2.6 g/dL, LDH:101 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5263**] is a very pleasant 74 year old female with past medical
   history of colon cancer complicated by bilateral ureteral obstruction
   requiring percutaneous nephroureteral stent and colostomy, who presents
   with weakness, likely secondary to ongoing bleeding from  her left
   nephroureteral tube.
   .
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):
   Patient's HCT nadired at 12.8. CT scan prelim was without evidence of a
   retroperitoneal or other pathology.. Both angiography and tagged RBC
   scan failed to reveal any source of bleeding. She has no known bleeding
   or coagulation disorders. IR has upsized her stent to attempt
   tamponade. Plan for OR based on stability.
   - Trend HCT q6H, transfuse for HCT <30 per urology.
   - Follow calcium and replete aggressively
   - Follow up final reads of imaging studies
   - Appreciate urology co-management
   - Continuing continous bladder irrigation per urology
   - Monitor I/O
s closely (from stents, bladder, and rectal output)
   - Patient with 3 PIV
s in place.
   #) Hypertension: Holding home anti-hypertensives in setting of on-going
   bleeding. Currently normotensive.
   #) Renal insufficiency: At baseline
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-4-8**] 08:33 AM
   16 Gauge - [**2123-4-8**] 10:28 AM
   Prophylaxis:
   DVT: Pneumoboots given ongoing bleeding
   Stress ulcer: PPI not needed
   VAP:  N/A
   Comments:
   Communication:  Comments: Husband [**Name (NI) 1788**] ([**Telephone/Fax (1) 5264**], [**Name2 (NI) **] [**Doctor First Name 792**]
   ([**Telephone/Fax (1) 5265**]
   Code status: Full code
   Disposition: ICU until Hct stable and source identified

2123-04-10 10:11:00 Physician Attending Progress Note
Chief Complaint: blood loss anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   10 U PRBCs bleed from unclear source - presumably GU origin
   24 Hour Events:
 ARTERIAL LINE - STOP [**2123-4-9**] 05:28 PM
   nephrostomy tubes being irrigated
   Hct stable
   abd CT no hematoma
   without complaints thhis AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2123-4-10**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 93 (72 - 98) bpm
   BP: 117/61(74) {112/56(71) - 151/97(127)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 95 kg
   Height: 63 Inch
                  Total In:
                                                                  1,385 mL
                                                                    120 mL
   PO:
                                                                    540 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    470 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,880 mL
                                                                  1,175 mL
   Urine:
                                                                  3,850 mL
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                      -2,495 inaccurate mL
                                                                 -1,055 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, ostomy
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): x 3, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   195 K/uL
   95 mg/dL
   1.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   16 mg/dL
   107 mEq/L
   142 mEq/L
   29.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2123-4-8**]  05:32 AM
                             [**2123-4-8**]  09:03 AM
                             [**2123-4-8**]  09:24 AM
                             [**2123-4-8**]  02:45 PM
                             [**2123-4-8**]  08:03 PM
                             [**2123-4-9**]  02:50 AM
                             [**2123-4-9**]  08:04 AM
                             [**2123-4-9**]  02:07 PM
                             [**2123-4-9**]  08:11 PM
                             [**2123-4-10**]  03:52 AM
   WBC
   9.6
   8.6
   6.1
   6.0
   6.7
   Hct
   16.7
   20.3
   28.4
   28.1
   25.0
   29.4
   28.3
   32.5
   29.4
   Plt
   [**Telephone/Fax (3) 5286**]66
   195
   Cr
   2.1
   2.1
   1.9
   1.8
   TCO2
   23
   Glucose
   126
   129
   98
   95
   Other labs: PT / PTT / INR:13.5/25.1/1.2, Alk Phos / T Bili:/1.0,
   Albumin:2.6 g/dL, LDH:101 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING) - Hct
   stable, to have cystoscopy on Tuesday, continue CBI
 .H/O CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-4-8**] 08:33 AM
   16 Gauge - [**2123-4-8**] 10:28 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: